US04018922
22.5 g (0.15 mole) of sodium iodide was added to a solution of 41.5 g (0.15 mole) of 10-(3-chloropropyl)-phenothiazine in 400 ml of methyl ethyl ketone and then 15.2 g (0.15 mole) of triethylamine followed by 21.7 g (0.15 mole) of 2-(4-piperidyloxy)-ethanol were added to the reaction mixture. The solution was refluxed with stirring for 20 hours and after cooling, the precipitate formed was removed by vacuum filtration. The filtrate was evaporated to dryness and the oily residue was extracted with aqueous hydrochloric acid. The acidic extract was washed with ether, made alkaline and was extracted with benzene. The benzene phase was repeatedly washed with water, dried and concentrated to obtain an oil. The oil was dissolved in ether and hydrogen chloride in ether was added thereto. The precipitate was recoved by vacuum filtration and was crystallized from a 95% ethanol-ether mixture to obtain 35 g (55% yield) of 10-[3-(4-β-hydroxyethoxypiperidino)-propyl]-phenothiazine hydrochloride in the form of white crystals melting at 183° C on a heated microscopic stage. The product was identical to that of Example XI.

reactant | sodium iodide | 0.15 mole, 22.5 g | [I-].[Na+]
reactant | 10-(3-chloropropyl)-phenothiazine | 0.15 mole, 41.5 g | ClCCCN1C2=CC=CC=C2SC=2C=CC=CC12 | C15H14ClNS
reactant | triethylamine | 0.15 mole, 15.2 g | C(C)N(CC)CC | C6H15N
reactant | 2-(4-piperidyloxy)-ethanol | 0.15 mole, 21.7 g | N1CCC(CC1)OCCO | C7H15NO2
reactant | hydrogen chloride | Cl | ClH
solvent | methyl ethyl ketone | 400 ml | C(C)C(=O)C | C4H8O
solvent | ether | CCOCC | C4H10O
product | 10-[3-(4-β-hydroxyethoxypiperidino)-propyl]-phenothiazine hydrochloride | 35 g, 55% yield | Cl.OCCOC1CCN(CC1)CCCN1C2=CC=CC=C2SC=2C=CC=CC12 | InChI=1S/C22H28N2O2S.ClH/c25-16-17-26-18-10-14-23(15-11-18)12-5-13-24-19-6-1-3-8-21(19)27-22-9-4-2-7-20(22)24;/h1-4,6-9,18,25H,5,10-17H2;1H
